US06762180B1
(19) 3-Z-[1-(4-(N-benzyl-N-methyl-aminomethyl)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone and 4-(N-benzyl-N-methyl-aminomethyl)-aniline Rf value: 0.4 (silica gel, methylene chloride/ethanol=10:1) C33H31N3O3

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OCC)=C(C1=CC=CC=C1)OCC)=O | C22H21NO5
reactant | 4-(N-benzyl-N-methyl-aminomethyl)-aniline | C(C1=CC=CC=C1)N(C)CC1=CC=C(N)C=C1 | C15H18N2
product | 3-Z-[1-(4-(N-benzyl-N-methyl-aminomethyl)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone | C(C1=CC=CC=C1)N(C)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OCC)=O)C=C1 | C33H31N3O3
